US08470841B2
50b N-{3-[4-(6-Cyclopropylmethoxypyridin-3-yloxy)phenyl]-1-methylpropyl}acetamide
N-{3-[4-(6-Fluoropyridin-3-yloxy)phenyl]-1-methylpropyl}acetamide (105 mg, 0.35 mmol), sodium hydride (55% in oil) (42 mg, 1.04 mmol) and cyclopropylmethanol (62 mg, 0.86 mmol) were stirred in 3 ml of NMP at 130° C. under argon for 9 h. After cooling, ethyl acetate and water were added, and the organic phase was separated off, concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 71 mg (58%), M+H+: 355.1.

reactant | N-{3-[4-(6-Fluoropyridin-3-yloxy)phenyl]-1-methylpropyl}acetamide | 0.35 mmol, 105 mg | FC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C17H19FN2O2
reactant | sodium hydride | 1.04 mmol, 42 mg | [H-].[Na+]
reactant | cyclopropylmethanol | 0.86 mmol, 62 mg | C1(CC1)CO | C4H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NMP | 3 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | N-{3-[4-(6-Cyclopropylmethoxypyridin-3-yloxy)phenyl]-1-methylpropyl}acetamide | C1(CC1)COC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C21H26N2O3
